US06071903
Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-aminobenzyl)amino]propionate
A mixture of 0.454 g (1 mmol) of methyl 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-nitrobenzyl)amino]propionate and 0.451 g (2 mmol) of SnCl2.2H2O in 12 ml of methanol was refluxed for 2 hours. An additional 0.451 g (2 mmol) of SnCl2.2H2O was added and the mixture refluxed for 2 hours.

reactant | methyl 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-nitrobenzyl)amino]propionate | 1 mmol, 0.454 g | OCC(C(=O)OC)N(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C18H19ClN2O8S
reactant | SnCl2.2H2O | 2 mmol, 0.451 g | O.O.Cl[Sn]Cl
reactant | SnCl2.2H2O | 2 mmol, 0.451 g | O.O.Cl[Sn]Cl
solvent | methanol | 12 ml | CO | CH4O
product | Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-aminobenzyl)amino]propionate | OCC(C(=O)OC)N(CC1=C(C=C(C=C1)Cl)N)S(=O)(=O)C1=CC=C(C=C1)OC | C18H21ClN2O6S
